US07091227B2
1-(6-Trimethylsilylacetylenyl-2-benzothiazolyl)-3-ethylurea
A mixture of 1-(6-bromo-2-benzothiazolyl)-3-ethylurea (0.100 g, 0.33 mmol), Pd(PPh3)2Cl2 (0.012 g, 0.017 mmol, 0.05 eq), and triethylamine (0.20 mL, 1.42 mmol, 4.3 eq) in 1 mL of anhydrous DMF was bubbled with nitrogen gas for about 5 minutes, followed by the addition of trimethylsilyl acetylene (0.23 mL, 1.65 mmol, 5.0 eq). The mixture was heated at about 80° C. with stirring in a sealed tube for about 15 hours. The mixture was cooled down, taken up in 10 mL MeOH, and evaporated to dryness. Purification by HPLC gave pure desired compound 0.093 g (89%). LC/MS 318 (M+1); LC retention time 3.77 min.

reactant | 1-(6-bromo-2-benzothiazolyl)-3-ethylurea | 0.33 mmol, 0.100 g | BrC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C10H10BrN3OS
reactant | triethylamine | 1.42 mmol, 0.20 mL, 4.3 eq | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl acetylene | 1.65 mmol, 0.23 mL, 5.0 eq | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd(PPh3)2Cl2 | 0.017 mmol, 0.012 g, 0.05 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(6-Trimethylsilylacetylenyl-2-benzothiazolyl)-3-ethylurea | 0.093 g, 89% | C[Si](C)(C)C#CC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C15H19N3OSSi
